US20010014679A1
A mixture of 2-fluoro-6-(4-fluorophenoxy) benzonitrile (2.5 g, 11 mmol, Maybridge) and formamidine acetate (2.3 g, 22 mmol, Aldrich) in 50 mL of N,N-dimethylacetamide was heated to 162° C under nitrogen for 9 hours. After cooling to room temperature the reaction mixture was evaporated under reduced pressure. The product was suspended in 80 mL of cold water and the pH adjusted to 8.5 with concentrated ammonium hydroxide. After cooling the suspension overnight, the precipitate was collected by vacuum filtration, washed with water (25 mL), dried and recrystallized from 30 mL of ethanol at 40° C. The precipitate was collected by vacuum filtration, washed with ethanol, and dried at 50° C. to give 0.3 g (10.7% yield) of 4-amino-5-(4-fluorophenoxy)quinazoline, M.P. 188-190° C.

reactant | 2-fluoro-6-(4-fluorophenoxy) benzonitrile | 11 mmol, 2.5 g | FC1=C(C#N)C(=CC=C1)OC1=CC=C(C=C1)F | C13H7F2NO
reactant | formamidine acetate | 22 mmol, 2.3 g | C(C)(=O)O.C(=N)N
solvent | N,N-dimethylacetamide | 50 mL | CN(C(C)=O)C | C4H9NO
product | 4-amino-5-(4-fluorophenoxy)quinazoline | 0.3 g, 10.7% yield | NC1=NC=NC2=CC=CC(=C12)OC1=CC=C(C=C1)F | C14H10FN3O
